US04213985
A solution of 2-chloropropionyl chloride and 5-methyl-5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one in dioxane was reacted to obtain 11-(2-chloropropionyl)-5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one which after crystallization from acetonitrile melted at 210°-212° C.

reactant | 2-chloropropionyl chloride | ClC(C(=O)Cl)C | C3H4Cl2O
reactant | 5-methyl-5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one | CN1C2=C(NC3=C(C1=O)C=CC=C3)N=CC=C2 | C13H11N3O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 11-(2-chloropropionyl)-5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one | ClC(C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2)C | C15H12ClN3O2
